US07129290B2
2.8-Dimethyl -1,5,7,11-tetraoxaspiro[5.5]undecane
See also U.S. Pat. No. 5,808,108. In a 500 mL RB flask equipped with a reflux condenser, a stirrer and a Dean Stark trap, 1,3-butanediol (20.0 g, 0.22 mol), and toluene (350 mL) were added. After placing under nitrogen the resulting solution was heated to reflux for two h to remove water from the mixture. The solution was cooled to RT and 4-ethylbenzenesulfonic acid (0.35 g) and tetraethylorthocarbonate (21.3 g, 0.11 mol) were added. The solution was heated to reflux and the azeotropic mixture collected; The reaction was refluxed until the temperature of the distillated reached 110° C. (boiling point of pure toluene). The collected azeotropic mixture was measured and weighed and then poured into brine and the organic phase was separated, which indicated ˜22 mL of ethanol was collected. TLC analysis indicated that the reaction was complete by the disappearance of the diol and the appearance of the product at Rf=0.59 (silica gel, EtOAc/hexanes (3/2). The reaction was cooled to RT and triethylamine (2.5 mL) added. The toluene was removed at reduced pressure (rotovap) and the resulting liquid dried under vacuum. Vacuum distillation afforded four fractions of the desired product as a water white clear liquid boiling, bp: 70–75° C. at 40 Pa. Fractions 1 and 2 were slightly impure and were combined to give 5.715 g and fractions 3 and 4 were very pure and were combined to give 10.046 g. Overall yield: 15.761 g (75.66%). 13C NMR indicated the product to be a mixture of isomers.

reactant | 1,3-butanediol | 0.22 mol, 20.0 g | C(CC(C)O)O | C4H10O2
reactant | 4-ethylbenzenesulfonic acid | 0.35 g | C(C)C1=CC=C(C=C1)S(=O)(=O)O | C8H10O3S
reactant | tetraethylorthocarbonate | 0.11 mol, 21.3 g | C(C)OC(OCC)(OCC)OCC | C9H20O4
solvent | toluene | 350 mL | C1(=CC=CC=C1)C | C7H8
product | 2.8-Dimethyl -1,5,7,11-tetraoxaspiro[5.5]undecane | CC1OC2(OCC1)OC(CCO2)C | C9H16O4
